US07863332B2
f. Synthesis of 3-[3′-(1-methyl-3-pentylureido)-2-pentyloxybiphenyl-4-yl]propanoic acid
In a manner similar to that of Example (19g), by reaction of 400 mg (10 mmol, 10 eq) of sodium hydroxide and methyl 3-[3′-(1-methyl-3-pentylureido)-2-pentyloxybiphenyl-4-yl]propanoate, obtained in the preceding step, in 10 ml of a tetrahydrofuran/methanol mixture (8/2), and after crystallization from pentane, 312 mg of 3-[3′-(1-methyl-3-pentylureido)-2-pentyloxybiphenyl-4-yl]propanoic acid are obtained in the form of a white powder (m.p.=83° C.). Yield=74% over the two steps.

reactant | sodium hydroxide | 10 mmol, 400 mg, 10 eq | [OH-].[Na+]
reactant | methyl 3-[3′-(1-methyl-3-pentylureido)-2-pentyloxybiphenyl-4-yl]propanoate | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=C(C=C(C=C1)CCC(=O)OC)OCCCCC | C28H40N2O4
solvent | tetrahydrofuran methanol | 10 ml | O1CCCC1.CO
product | 3-[3′-(1-methyl-3-pentylureido)-2-pentyloxybiphenyl-4-yl]propanoic acid | Yield=74% | CN(C(=O)NCCCCC)C=1C=C(C=CC1)C1=C(C=C(C=C1)CCC(=O)O)OCCCCC | C27H38N2O4
